US06002008
4-(3,5-Dibromo-4-hydroxy-phenylamino)-6,7-dimethoxy-quinoline-3-carbonitrile
Using an analogous procedure to that described in Example 286, 248.7 mg (1 mmol) of 4-chloro-6,7-dimethoxy-3-quinolinecarbonitrile in 15 mL of 2-ethoxyethanol and in the presence of 115.6 mg (1 mmol) of pyridine hydrochloride was reacted with 320.3 mg (1.2 mmol) of 4-amino-2,6-dibromophenol to give 427.1 mg (89.2%) of the product as a gray solid, m.p.>250° C., mass (electrospray, m/e): M+H 479.7, 481.6.

reactant | 4-chloro-6,7-dimethoxy-3-quinolinecarbonitrile | 1 mmol, 248.7 mg | ClC1=C(C=NC2=CC(=C(C=C12)OC)OC)C#N | C12H9ClN2O2
reactant | pyridine hydrochloride | 1 mmol, 115.6 mg | Cl.N1=CC=CC=C1
reactant | 4-amino-2,6-dibromophenol | 1.2 mmol, 320.3 mg | NC1=CC(=C(C(=C1)Br)O)Br | C6H5Br2NO
solvent | 2-ethoxyethanol | 15 mL | C(C)OCCO | C4H10O2
product | 4-(3,5-Dibromo-4-hydroxy-phenylamino)-6,7-dimethoxy-quinoline-3-carbonitrile | 427.1 mg, 89.2% | BrC=1C=C(C=C(C1O)Br)NC1=C(C=NC2=CC(=C(C=C12)OC)OC)C#N | C18H13Br2N3O3
